US08426604B2
A. 4-Methylsulfanyl-2-trifluoromethyl-benzaldehyde
To a DMF solution (5 mL) containing 935.3 mg (4.87 mmol) of 4-fluoro-2-(trifluoromethyl)benzaldehyde was added sodium thiomethoxide (414.2 mg, 5.84 mmol). The mixture was stirred at 90° C. for 2 h, partitioned between EtOAc and water. The EtOAc extracts were washed with brine, dried over Na2SO4 and evaporated to afford desired product.

reactant | 4-fluoro-2-(trifluoromethyl)benzaldehyde | 4.87 mmol, 935.3 mg | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | sodium thiomethoxide | 5.84 mmol, 414.2 mg | C[S-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Methylsulfanyl-2-trifluoromethyl-benzaldehyde | CSC1=CC(=C(C=O)C=C1)C(F)(F)F | C9H7F3OS
